US07157487B2
(Step 1) Synthesis of methyl 4-((2S,4S)-4-acetoxy-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)benzoate
In DMF (10 ml), a mixture of 2-(2-methylphenylamino)-6-benzoxazolylacetic acid (318 mg, 1.13 mmol), 4-((2S,4S)-4-acetoxy-2-pyrrolidinylmethoxy)benzoate (330 mg, 1.13 mmol), EDC•HCl (325 mg, 1.70 mmol), HOBt (230 mg, 1.70 mmol) and triethylamine (1.18 ml, 8.50 mmol) was stirred at room temperature for 21 hours. The reaction mixture was poured in ice water (30 ml), followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 40 g), whereby from chloroform/acetone (20/1) eluate fractions, the title compound (610 mg, 97%) was obtained as a colorless amorphous substance.

reactant | 2-(2-methylphenylamino)-6-benzoxazolylacetic acid | 1.13 mmol, 318 mg | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)O | C16H14N2O3
reactant | 4-((2S,4S)-4-acetoxy-2-pyrrolidinylmethoxy)benzoate | 1.13 mmol, 330 mg | C(C)(=O)O[C@H]1C[C@H](NC1)COC1=CC=C(C(=O)[O-])C=C1
reactant | EDC•HCl | 1.70 mmol, 325 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.70 mmol, 230 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 8.50 mmol, 1.18 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 4-((2S,4S)-4-acetoxy-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-2-pyrrolidinylmethoxy)benzoate | 610 mg, 97% | C(C)(=O)O[C@H]1C[C@H](N(C1)C(CC1=CC2=C(N=C(O2)NC2=C(C=CC=C2)C)C=C1)=O)COC1=CC=C(C(=O)OC)C=C1 | C31H31N3O7
